US05216003
Step 6: Synthesis of 2-Hydroxymethyl-4-phosphonomethylbenzimidazole:
2-Nitro-3-(diethylphosphonomethyl)aniline (3.2 gm) in ethanol (60 mL) was combined with 10% Pd on carbon and concentrated HCl (ca. 1 mL) and hydrogenated at 55 psi for 3 hours. Additional ethanol was added and the mixture filtered through diatomaceous earth and concentrated to a solid. The solid was combined with 6N HCl and heated to reflux for 16 hours. The reaction was concentrated to a reddish solid combined with water and reconcentrated. The solid was then combined with glyoxalic acid (1.4 gm) and water (30 mL) and heated to reflux for 16 hours. The reaction mixture was concentrated to a solid. H NMR data: D2O (HDO at 4.81 ppm) 3.26 (d,2H), 4.92 (s, 2H), 7.26 (m, 3H).

reactant | 2-Nitro-3-(diethylphosphonomethyl)aniline | 3.2 gm | [N+](=O)([O-])C1=C(N)C=CC=C1CP(=O)(OCC)OCC | C11H17N2O5P
reactant | HCl | ca. 1 mL | Cl | ClH
reactant | ethanol | 60 mL | C(C)O | C2H6O
catalyst | Pd on carbon | [Pd] | Pd
product | 2-Hydroxymethyl-4-phosphonomethylbenzimidazole | OCC=1NC2=C(N1)C=CC=C2CP(=O)(O)O | C9H11N2O4P
